Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ F with a history of hep C, ?autoimmune hepatitis, IVDU on 
suboxone presenting for ___ pain.

Pt initially presented to ___ on ___ with c/o 2 
days or RUQ pain.  She states that she relapsed 2 days prior and 
had been injecting IV cocaine.  Over the last 2 days, she has 
had fever/chills, increasing RUQ pain and n/v.  Initial labs 
done there showed AST/ALT: ___.  Tbili: 1.5.  RUQUS was done 
which showed normal liver (14cm) with normal flow of hepatopetal 
flow of main portal vein.  Gallbladder was contracted with many 
gallstones and thickened gallbladder wall and positive 
sonographic ___ sign.  She was given Vanc/Zosyn and 
transferred to ___ for HIDA scan and evaluation for possible 
cholecystectomy.

In terms of her hepatitis history, pt was last seen at ___ in 
___ with elevated LFT's and RUQ pain.  She was evaluated by 
Hepatology at the time who felt that the etiology of pt's 
hepatitis was unclear but could be from repeated infection with 
HCV.  Serologies otherwise notable for mild elevation in SMA 
1:20 and slightly elevated IgG which were mildly diagnostic for 
type I autoimmune hepatitis.  She also had increased Eos that 
were concerning for drug/toxin-induced hepatitis vs. parasitic 
infections.  RUQUS with dopplers essentially unremarkable.  No 
specific treatment was administered.  Pt states she had an 
additional flare of hepatitis at ___ last year, unclear if 
any treatment was administered for this at that time.

In the ED, pt VSS:97.9,50 104/74, 98% RA.
Repeat LFT's similar to prior (ALT/AST: ___/___), Tbili: 2.3) 
rest of labs fairly unremarkable).
Pt was admitted for HIDA scan and f/u w/u of her hepatitis.
 
Past Medical History:
HepC (Dx ___ w/o Tx at OSH)
?Autoimmune hepatitis
IVDU (Heroin on suboxone) recent IV cocaine use
SI/Attempts
Endometriosis.
 
Social History:
___
Family History:
Non-contrib. 
 
Physical Exam:
GEN: laying in bed, appears to be in pain
HEENT: anicteric sclera, dry MM
RESP: coarse crackles bilaterally
CV: RRR, no m/r/g, no JVD
GI: Soft, TTP in RUQ, no rebound, +BS
EXT: wwp, no edema
SKIN: no rashes, multiple tattoos
NEURO: AOx3, moving all extremities
PSYCH: pleasant, appears depressed.
 
Pertinent Results:
___ 01:35AM BLOOD WBC-3.5* RBC-4.86 Hgb-13.7 Hct-43.4 
MCV-89 MCH-28.2 MCHC-31.6* RDW-12.5 RDWSD-40.9 Plt ___
___ 01:35AM BLOOD Glucose-105* UreaN-6 Creat-0.6 Na-135 
K-3.6 Cl-103 HCO3-19* AnGap-17
___ 01:35AM BLOOD ALT-823* AST-1097* AlkPhos-188* 
TotBili-2.3*
___ 01:35AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IMAGING / STUDIES:
___ MRCP:  Periportal edema and edematous gallbladder wall 
(without gallstone) is consistent with acute hepatitis of 
unclear etiology.  No dilated biliary ducts as questioned. 

___ HIDA SCAN:  1. Radiotracer uptake in the expected region 
of the gallbladder is compatible with recent ultrasound findings 
of a contracted gallbladder.  No evidence to suggest acute 
cholecystitis.  
  
2.  Persistent radiotracer uptake in the hepatic parenchyma 
throughout the 90 minutes of imaging reflective of poor biliary 
excretion, which may represent hepatitis given clinical history 
of autoimmune hepatitis. 

 
Brief Hospital Course:
___ with PMH Hep C (genotype 1, diagnosed ___, IVDU, 
presenting
with nausea and vomiting to ___, transferred for
work-up of hepatitis, RUQ pain.  HIDA scan and MRCP without
biliary obstruction or cholecystitis.  Overall picture is
suggestive of acute ischemic hepatitis in the setting of cocaine
use.

# Ischemic hepatitis:
# RUQ pain / abnormal LFTs
Picture is similar to last episode in ___.  She was seen by 
hepatology and her presentation was felt to be due to liver 
ischemia in the setting of recent cocaine use.  Patinet has a 
reported history of autoimmune hepatitis
but serologies do not suggest this (per hepatology, slightly
elevated anti-SM in ___ fairly non-specific).  HCV also 
positive
but would likely not present with fulminant hepatitis. RUQUS 
with
dopplers at ___ did not show any portal vein thrombosis and 
otherwise negative for any obvious liver findings.  MRCP does 
not show any obvious
biliary obstruction and HIDA scan negative for cholecystitis. 
LFTs and symptoms improved with supportive care.
TRANSITIONAL ISSUES
[] Outpatient liver follow-up and consideration for biopsy, 
endoscopy, and treatment of hepatitis C
[] Hep A and B immunization to be completed through PCP or liver 
clinic
-- Results of w/u thus far: HCV viral load: 42K, hep A/B
negative, iron studies wnl (only mildly elevated ferritin, iron
saturation less than 45% at 34%)
___ negative, SM-ab negative, AMA negative, IgG wnl, IgM wnl, 
HIV
negative, ceruloplasmin normal, A1AT normal, EBV c/w past 
infection, CMV pending, -- Pain control with PO hydromorphone
 
# IVDU with recent relapse-- Pt states she has been clean for a 
long time and just relapsed 2 days ago, unclear trigger.  
On pharmacy record, she takes SUBOXONE 12 MG-3 MG SL FILM 
PLACE 1 FILM UNDER THE TONGUE DAILY, last filled ___.  

Suboxone was held and she was treated with IV then PO dilaudid 
for acute pain related to hepatitis.  No prescription for 
dilaudid was given on discharge given her history of narcotic 
dependence and high risk for abuse.  She will restart suboxone 
upon discharge.

Social work was consulted and declined to speak with them on 
several occasions - she states she has social services following 
at ___ and feels comfortable with following up with there 
and continuing suboxone.

# Chronic neuropathic pain-- continue home gabapentin.

30 minutes in discharge activities
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 600 mg PO TID 
2. Buprenorphine-Naloxone (2mg-0.5mg) Dose is Unknown  SL DAILY 

 
Discharge Medications:
1.  buprenorphine-naloxone ___ mg sublingual DAILY  
2.  Gabapentin 600 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ischemic hepatitis
Hepatitis C infection
Substance abuse
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were hospitalized for acute liver injury which was likely 
caused by a temporary interruption in the blood supply to your 
liver caused by cocaine use.  It is very important that you 
avoid taking any recreational drugs and completely avoid 
alcohol.

Follow up with the ___ to discuss treatment of 
hepatitis C and for evaluation and treatment of your liver 
disease to prevent progression to irreversible liver failure.
 
Followup Instructions:
___